US06512123B2
8-(9H-Carbazol-2-yloxy)-octanoic Acid Hydroxyamide
In a manner anologous to that of example 1(c), 8-(9H-carbazol-2-yloxy)-octanoic acid benzyloxyamide (90 mg, 430 mmol) in tetrahydrofuran was hydrogenated in the presence of palladium on barium sulfate to give the title compound as a crystalline solid (16 mg). MS (M−H+)=339.

reactant | 8-(9H-carbazol-2-yloxy)-octanoic acid benzyloxyamide | 430 mmol, 90 mg | C(C1=CC=CC=C1)ONC(CCCCCCCOC1=CC=2NC3=CC=CC=C3C2C=C1)=O | C27H30N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on barium sulfate | [Pd] | Pd
product | 8-(9H-Carbazol-2-yloxy)-octanoic Acid Hydroxyamide | 16 mg | ONC(CCCCCCCOC1=CC=2NC3=CC=CC=C3C2C=C1)=O | C20H24N2O3
